* D:\GitHub\SNSPDs-Probabilistic-Computing\snspd.asc
XU1 N002 0 v_output 0 nanowireBCF Lind=130n
R2 v_output 0 50
I1 0 N002 PWL file=D:\GitHub\SNSPDs-Probabilistic-Computing\outputPy\snspd_data.txt
V1 N001 0 2 Rser=0
R1 v_output N001 100k
.tran 0 500n 0 1p uic
* SNSPD BCF
* Add a resistor (50 ohm) to\nmeasure the output voltage
* An current is applied to the SNSPD
* Under low-light conditions, the SNSPD is modeled as a Poisson Process.
* In practice, the voltage should be between 0.3 and 0.4.\nHere, we will use 1 and 2 instead of these two values.
.lib snspd.lib
.backanno
.end
