*** Superconductor Library ***

* Untilised to examine the electrical (I, V, t) relationship
* with an A.C. source

.subckt superconductor gate gatereturn n1 n2
+Ic=10u
+Rsc=1f
+Rn=1500
+Rct=10u

* Parameters
*.PARAM Ic = 10u
    * Critical current (A)
*.PARAM Rsc = 1f
    * Superconducting resistance (Ohm)
*.PARAM Rn = 1500
    * Normal state resistance (Ohm)

* superconducting property
R1 gate gatereturn 1f
B1 n1 n2 V=IF((abs(I(R1))<Ic), I(R1)*(Rsc+Rct), I(R1)*(Rn+Rct))

.ends superconductor